US07294636B2
Step 1: Preparation of 8-benzylbicyclo[3.2.1.]octan-3-one
A solution of 2,5-dimethoxytetrahydrofuran (22.2 ml) in 0.1M HCl was refluxed for 1 hour and then cooled to 0° C. 1.3-Acetonedicarboxylic acid (25 g), benzylamine (15.6 ml) and 10% sodium acetate (95 ml) was added in one portion and the resulting mixture was stirred at room temperature for 1 hour and then heated to 50° C. for 5 hours. The reaction mixture was cooled, basified with 2M sodium hydroxide, extracted with dichloromethane and washed with water. The organics were extracted with 1M hydrochloric acid and washed with dichloromethane. The aqueous layer was basified with 2M sodium hydroxide and extracted with ethyl acetate (3×100 ml). The organic extracts were dried and evaporated to dryness to give the title compound as a brown oil which was used without further purification. Yield 13.66 g. MS 216 MH+.

reactant | 2,5-dimethoxytetrahydrofuran | 22.2 ml | COC1OC(CC1)OC | C6H12O3
reactant | 1.3-Acetonedicarboxylic acid | 25 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | benzylamine | 15.6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium acetate | 95 ml | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | HCl | 0.1M | Cl | ClH
product | octan-3-one | CCC(CCCCC)=O | C8H16O
